US07893055B2
(5-(Methylthio)furan-2-yl)methanamine.
To a solution of 5-(methylthio)furan-2-carbaldehyde oxime (220 mg, 1.40 mmol) in glacial acetic acid (15 mL) was added zinc dust (2.10 g, 32.2 mmol) and the reaction mixture was stirred at 23° C. for 4 h. After filtration on celite, the acetic acid was concentrated in vacuo and the crude material purified on functionalized silica gel (6 g) containing sulfonic acid (0.8 mmol/g) to afford 138 mg (69%) of the title compound as an orange oil. 1H NMR (400 MHz, CDCl3): 6.36 (1H, d, J=3.2 Hz), 6.11 (1H, d, J=3.2 Hz), 3.80 (2H, s), 2.36 (3H, s).

reactant | 5-(methylthio)furan-2-carbaldehyde oxime | 1.40 mmol, 220 mg | CSC1=CC=C(O1)C=NO | C6H7NO2S
solvent | acetic acid | 15 mL | C(C)(=O)O | C2H4O2
catalyst | zinc | 32.2 mmol, 2.10 g | [Zn] | Zn
product | (5-(Methylthio)furan-2-yl)methanamine | 138 mg, 69% | CSC1=CC=C(O1)CN | C6H9NOS
